US04021409
To a solution of 110 g (0.386 mol) of diaminodimethylbiphenyl dihydrochloride, 418 g (1.55 mol) of ferric chloride hexahydrate, and 10.2 g (0.075 mol) zinc chloride in 500 ml of 95% ethanol heated to 50° C. was added 55.6 g (0.78 mol) of methylvinyl ketone over a 90 minute period. The solution was refluxed for 2 hours then allowed to stand over night. Most of the ethanol was removed at reduced pressure and the residue made basic with 25% sodium hydroxide. The basic solution was evaporated to dryness and the dark residue was extracted four times with 400 ml portions of benzene. The extracts were evaporated to dryness to give a dark brown residue. Extraction of the residue with 150 ml of ethanol resulted in a light brown solid which was sublimed (250° C, 0.1 torr) to give 29 g (24%) of 4,4',5,5'-tetramethyl-8,8'-biquinoline, mp 290°-295° C. Crystallization from benzene/hexane afforded an analytical sample, mp 292°-295° C.

reactant | diaminodimethylbiphenyl dihydrochloride | 0.386 mol, 110 g | Cl.Cl.NC=1C(=C(C=CC1C)C1=CC=C(C=C1)C)N
reactant | methylvinyl ketone | 0.78 mol, 55.6 g | CC(=O)C=C | C4H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | zinc chloride | 0.075 mol, 10.2 g | [Cl-].[Zn+2].[Cl-]
product | 4,4',5,5'-tetramethyl-8,8'-biquinoline | 29 g, 24% | CC1=CC=NC2=C(C=CC(=C12)C)C=1C=CC(=C2C(=CC=NC12)C)C | C22H20N2
